US05246929
To a suspension of (R)-(+)-2-(4-chlorophenyl)-3,4-dihydro-2H-1,4-benzothiazine (1.30 g, 0.005 mole) and triethylamine (1.66 ml, 0.012 mole) in dichloromethane (16 ml) is added dropwise a solution of chloroacetyl chloride (0.79 ml, 0.01 mole) in dichloromethane (4 ml) under ice cooling, and the mixture is stirred at room temperature for 45 minutes. After the solvent is distilled off, to the residue are added ethyl acetate and water, and the ethyl acetate layer is washed with aqueous sodium hydrogen carbonate solution, water and saline, dried over sodium sulfate and distilled to remove the solvent to give (R)-4-chloroacetyl-2-(4-chlorophenyl)-3,4-dihydro-2H-1,4-benzothiazine (1.84 g) as caramel.

reactant | (R)-(+)-2-(4-chlorophenyl)-3,4-dihydro-2H-1,4-benzothiazine | 0.005 mole, 1.30 g | ClC1=CC=C(C=C1)[C@H]1SC2=C(NC1)C=CC=C2 | C14H12ClNS
reactant | triethylamine | 0.012 mole, 1.66 ml | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 0.01 mole, 0.79 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | dichloromethane | 16 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | (R)-4-chloroacetyl-2-(4-chlorophenyl)-3,4-dihydro-2H-1,4-benzothiazine | 1.84 g | ClCC(=O)N1C[C@H](SC2=C1C=CC=C2)C2=CC=C(C=C2)Cl | C16H13Cl2NOS
